US20010041700A1
(f) N-(Benzyloxymethyl-cyano-methyl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide
N-(2-Benzyloxy-1-carbamoyl-ethyl)-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide (0.22 g, 0.48 mmol) was dissolved in 4 mL of DMF and cooled to 0° C. with an ice-water bath. To this solution was added cyanuric chloride (0.089 g, 0.48 mmol) and the reaction mixture was stirred for one h. The reaction was quenched with cold water (2 mL), extracted with EtOAc (3×100 mL), and the organic layers were combined and washed with 100 mL brine. The organic layer was dried over MgSO4, filtered and concentrated by rotary evaporation to give the crude residue. The residue was purified by chromatography (SiO2, 35% hexane in EtOAc) to give the title compound as a clear oil (0.12 g, 57%); 1H NMR (CDCl3) 7.35 (5H, m), 7.02-7.08 (1H, m), 5.01-5.09 (1H, m), 4.52-4.63 (2H, m), 3.72-3.34 (10H, m), 2.96-2.83 (1H, m), 2.78-2.62 (1H, m), 2.18-2.30 (1H, m), 1.75-1.51 (6H, m), 1.30-1.07 (5H, m), 0.95-0.73 (2H, m). MS: m/z=442 M+1.

reactant | N-(2-Benzyloxy-1-carbamoyl-ethyl)-2-cyclohexylmethyl-4-morpholin-4-yl-oxo-butyramide | 0.48 mmol, 0.22 g | C(C1=CC=CC=C1)OCC(C(N)=O)NC(C(C(CN1CCOCC1)=O)CC1CCCCC1)=O | C25H37N3O5
reactant | cyanuric chloride | 0.48 mmol, 0.089 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-(Benzyloxymethyl-cyano-methyl)-2-cyclohexylmethyl-4-morpholin-4-yl-4-oxo-butyramide | 0.12 g, 57% | C(C1=CC=CC=C1)OCC(NC(C(CC(=O)N1CCOCC1)CC1CCCCC1)=O)C#N | C25H35N3O4
